US04128658
2-[[2-(2-Furanyl)ethyl]thio]ethyl-1H-isoindole-1,3(2H)-dione (0.5 g), dimethylamine hydrochloride (0.27 g) and paraformaldehyde (0.102 g) were heated together under reflux in ethanol. After 5 hr further dimethylamine hydrochloride (0.27 g) and paraformaldehyde (0.102 g) were added and the heating continued for a further 16 hr. Solvent was removed, the residue basified and extracted with ethyl acetate to give an oil which after column chromatography (silica/methanol) gave 2-[2-[[2-[5-(dimethylamino)methyl-2-furanyl]ethyl]thio]ethyl]-1H-isoindole-1,3(2H)dione as a pale oil (0.43 g). Analysis Found: C, 61.48; H, 6.13; N, 7.63; C19H22N2O3S.3 /4H2O requires: C, 61.35; H, 6.37; N, 7.53%.

reactant | 2-[[2-(2-Furanyl)ethyl]thio]ethyl-1H-isoindole-1,3(2H)-dione | 0.5 g | O1C(=CC=C1)CCSCCN1C(C2=CC=CC=C2C1=O)=O | C16H15NO3S
reactant | dimethylamine hydrochloride | 0.27 g | Cl.CNC
reactant | paraformaldehyde | 0.102 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 0.27 g | Cl.CNC
reactant | paraformaldehyde | 0.102 g | C=O | CH2O
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-[[2-[5-(dimethylamino)methyl-2-furanyl]ethyl]thio]ethyl]-1H-isoindole-1,3(2H)dione | 0.43 g | CN(C)CC1=CC=C(O1)CCSCCN1C(C2=CC=CC=C2C1=O)=O | C19H22N2O3S
